US07727988B2
5-(4-methyl-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride (E64)
A solution of 3-[5-(4-Methyl-pyridin-3-yl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-propionaldehyde (Prep113, 84 mg, 0.32 mmol), (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane (Prep4, 74 mg, 0.32 mmol), and AcOH (23 μl) in dichloroethane (4 ml) was cooled to 0° C. NaBH(AcO)3 (72 mg, 0.34 mmol) was added portionwise. The mixture was stirred at 0° C. for 2 hours and at room temperature for 30 minutes and then basified with 1N NaOH. The product was extracted with DCM, the organic phase was dried (Na2SO4) and evaporated. The residue was redissolved in DCM and stirred for 5 hours in presence of PS-isocyanate. The mixture was filtered and the solvent was evaporated. The crude was purified by flash chromatography eluting with DCM-MeOH—NH4OH (98:2:0.2) to give 41 mg of the free base of title compound (27% yield).

reactant | 3-[5-(4-Methyl-pyridin-3-yl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-propionaldehyde | 0.32 mmol, 84 mg | CC1=C(C=NC=C1)C=1C(NC(N(C1)CCC=O)=O)=O | C13H13N3O3
reactant | (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane | 0.32 mmol, 74 mg | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | NaBH(AcO)3 | 0.34 mmol, 72 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | 1N | [OH-].[Na+]
reactant | dichloroethane | 4 ml | ClC(C)Cl | C2H4Cl2
solvent | AcOH | 23 μl | CC(=O)O | C2H4O2
product | 5-(4-methyl-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride | 27% yield | Cl.Cl.CC1=C(C=NC=C1)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C25H25F3N4O2.2ClH/c1-16-7-8-29-12-20(16)21-14-32(23(34)30-22(21)33)10-2-9-31-13-19-11-24(19,15-31)17-3-5-18(6-4-17)25(26,27)28;;/h3-8,12,14,19H,2,9-11,13,15H2,1H3,(H,30,33,34);2*1H/t19-,24+;;/m0../s1
